US07087599B2
A sample of the crude product from step 2 in the preceding example (386 mg, 1.36 mmol) in anhydrous tetrahydrofuran (2.7 mL) was treated with propyl vinyl ketone (0.188 mL, 1.63 mmol) and 1,8-diazabicyclo[5.4.0]undec-7-ene (0.041 mL, 0.272 mmol). The mixture was stirred and heated in an oil bath at 60° C. for two hours. TLC showed very little reaction. The mixture was treated with 0.5M sodium methoxide in methanol (0.54 mL, 0.272 mmol) and then stirred with heating at 60° C. for an additional 16.3 hours. After cooling to room temperature, the solvent was evaporated under vacuum to give a residue consisting mainly of 2-butyl-4-chloro-6-fluoro-5-methoxy-2-(3-oxohexyl)-1-indanone. This material was dissolved in acetic acid (6 mL), treated with aqueous 6N HCl (3 mL), and stirred while heating in an oil bath at 80° C. for 22.3 hours. After cooling, the mixture was partitioned between EtOAc (150 mL) and water (150 mL). The organic phase was washed with aqueous K2CO3 (100 mL) and brine (50 mL), dried over MgSO4, filtered, and evaporated under vacuum to an oil (420 mg). The crude product was purified by preparative layer chromatography on four 0.1×20×20 cm silica gel GF plates, developing three times with 10% EtOAc in hexanes. The product bands were combined, eluted with EtOAc, and the eluent evaporated under vacuum to give 9a-butyl-8-chloro-4-ethyl-6-fluoro-7-methoxy-1,2,9,9a-tetrahydro-3H-fluoren-3-one as an oil (153 mg). The product contained trace amounts of 9a-butyl-6-chloro-4-ethyl-8-fluoro-7-methoxy-1,2,9,9a-tetrahydro-3H-fluoren-3-one as evidenced by 1H NMR spectroscopy.

reactant | propyl vinyl ketone | 1.63 mmol, 0.188 mL | C(=C)C(=O)CCC | C6H10O
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 0.272 mmol, 0.041 mL | N12CCCCCC2=NCCC1 | C9H16N2
reactant | sodium methoxide | 0.5M | C[O-].[Na+]
reactant | methanol | 0.272 mmol, 0.54 mL | CO | CH4O
reactant | 2-butyl-4-chloro-6-fluoro-5-methoxy-2-(3-oxohexyl)-1-indanone | C(CCC)C1(C(C2=CC(=C(C(=C2C1)Cl)OC)F)=O)CCC(CCC)=O | C20H26ClFO3
reactant | HCl | 6N, 3 mL | Cl | ClH
solvent | tetrahydrofuran | 2.7 mL | O1CCCC1 | C4H8O
solvent | acetic acid | 6 mL | C(C)(=O)O | C2H4O2
product | 9a-butyl-8-chloro-4-ethyl-6-fluoro-7-methoxy-1,2,9,9a-tetrahydro-3H-fluoren-3-one | 153 mg | C(CCC)C12CC3=C(C(=C(C=C3C2=C(C(CC1)=O)CC)F)OC)Cl | C20H24ClFO2
